US07932272B2
Quinoline-6-carboxylic acid 3-hydroxybenzylamide
Thioanisole (1.7 mL, 14 mmol) was added to a mixture of quinoline-6-carboxylic acid 3-benzyloxybenzylamide (1.3 g, 3.6 mmol) and trifluoroacetic acid(8 mL) on an ice bath, and the solution was stirred for 4 hours at room temperature. The solvent was evaporated in vacuo, then water, an aqueous solution of saturated sodium bicarbonate, ethyl acetate and tetrahydrofuran were added to the residue for extraction, the organic layer was washed with brine, then, dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, recrystallized from ethyl acetate-methanol, and the title compound (0.64 g, 2.3 mmol, 64%) was obtained as a white crystal.

reactant | Thioanisole | 14 mmol, 1.7 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | quinoline-6-carboxylic acid 3-benzyloxybenzylamide | 3.6 mmol, 1.3 g | C(C1=CC=CC=C1)OC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C24H20N2O2
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Quinoline-6-carboxylic acid 3-hydroxybenzylamide | 2.3 mmol, 0.64 g, 64% | OC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C17H14N2O2
